US07935815B2
A mixture of 6-chloro-2-methoxy-3-(4-methyl-1H-imidazol-1-yl)pyridine (400 mg), an allylpalladium chloride dimer (32.8 mg), tri-o-tolylphosphine (54.4 mg), sodium acetate (441 mg), dimethylacetamide (0.640 mL), tert-butyl methacrylate (0.724 mL) and toluene (2 mL) was stirred in a nitrogen atmosphere at 120° C. for 3.5 hours. The reaction solution was left to cool to room temperature. Then, a silica gel was added and the reaction solution was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 313 mg of tert-butyl (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]-2-methylacrylate. The ester was diluted with trifluoroacetic acid (2.48 mL) and methylene chloride (2.48 mL), and the reaction solution was stirred at room temperature for 3.5 hours. The reaction solution was concentrated under reduced pressure to obtain 260 mg of the title compound. The property value of the compound is as follows.

reactant | 6-chloro-2-methoxy-3-(4-methyl-1H-imidazol-1-yl)pyridine | 400 mg | ClC1=CC=C(C(=N1)OC)N1C=NC(=C1)C | C10H10ClN3O
reactant | tri-o-tolylphosphine | 54.4 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | sodium acetate | 441 mg | C(C)(=O)[O-].[Na+]
reactant | tert-butyl methacrylate | 0.724 mL | C(C(=C)C)(=O)OC(C)(C)C | C8H14O2
catalyst | allylpalladium chloride dimer | 32.8 mg | [CH2-]C=C.[CH2-]C=C.Cl[Pd+].Cl[Pd+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylacetamide | 0.640 mL | CC(=O)N(C)C | C4H9NO
product | tert-butyl (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]-2-methylacrylate | 313 mg | COC1=C(C=CC(=N1)/C=C(/C(=O)OC(C)(C)C)\C)N1C=NC(=C1)C | C18H23N3O3
